US05753654
1-[4-(p-Fluorobenzyl)-2-morpholinylmethyl]-3-methylurea
This compound was synthesized from 2-aminomethyl-4-(p-fluorobenzyl)morpholine and methyl isocyanate according to the same procedure as in Example 21. Yield=65%.

reactant | 2-aminomethyl-4-(p-fluorobenzyl)morpholine | NCC1CN(CCO1)CC1=CC=C(C=C1)F | C12H17FN2O
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 1-[4-(p-Fluorobenzyl)-2-morpholinylmethyl]-3-methylurea | Yield=65% | FC1=CC=C(CN2CC(OCC2)CNC(=O)NC)C=C1 | C14H20FN3O2
